US04088779
The mixture of 10.2 g of 2,2-diethoxy acetaldehyde, 27.8 g of methyl triphenylphosphoranylidene-acetate and 130 ml of benzene is refluxed for 15 hours and evaporated. The residue is triturated with diethyl ether, filtered and the filtrate evaporated. The residue is allowed to stand overnight in the refrigerator, triturated with the minimum amount of diethyl ether, the suspension filtered, the filtrate evaporated, the residue distilled and the fraction boiling at 50°-54°/0.1 mm Hg collected, to yield the 4,4-diethoxy-crotonic acid methyl ester.

reactant | 2,2-diethoxy acetaldehyde | 10.2 g | C(C)OC(C=O)OCC | C6H12O3
reactant | methyl triphenylphosphoranylidene-acetate | 27.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | benzene | 130 ml | C1=CC=CC=C1 | C6H6
product | 4,4-diethoxy-crotonic acid methyl ester | COC(\C=C\C(OCC)OCC)=O | C9H16O4
